US05612351
(5S)-1-Azabicyclo[3.2.1]octan-6-one (+) camphorsulfonate
To a solution of (±) 1-azabicyclo[3.2.1]octan-6-one (124 g, 1 mol) in ethanol (100 ml) was added a solution of (+) camphorsulfonic acid (232 g, 1.0 mol) in 200 ml ethanol. The mixture was heated to 70° C. and slowly cooled over 2 hours to 5° C. The precipitated crystals were collected by filtration and washed with cold ethanol (3×40 ml). The crude compound was crystallized from ethanol (150 ml) giving the title compound in 57.3 g yield. M.p. 267°-268° C. (decomp.). [α]D =+48° (water).

reactant | (±) 1-azabicyclo[3.2.1]octan-6-one | 1 mol, 124 g | N12CCCC(C(C1)=O)C2 | C7H11NO
reactant | (+) camphorsulfonic acid | 1.0 mol, 232 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (5S)-1-Azabicyclo[3.2.1]octan-6-one (+) camphorsulfonate | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.N21CCC[C@H](C(C2)=O)C1 | InChI=1S/C10H16O4S.C7H11NO/c1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14;9-7-5-8-3-1-2-6(7)4-8/h7H,3-6H2,1-2H3,(H,12,13,14);6H,1-5H2/t;6-/m.0/s1
